US05866568
A solution of 1-(4-bromophenoxy)-2-methylpropan-2-ol (1.23 g) in tetrahydrofuran (25 ml) was added to oil-free sodium hydride (132 mg) under an atmosphere of argon. The mixture was stirred for 30 minutes and then cooled to -78° C. 1.6M Butyl lithium in hexane (6.9 ml) was added over 5 minutes and the solution was stirred at -78° C. for 30 minutes. Trimethylborate (1.14 g) was added over 1 minute and the mixture was stirred at -78° C. for 1 hour. Saturated ammonium chloride solution (25 ml) was added and the mixture was allowed to warm to room temperature. Water (25 ml) was added and the mixture was extracted with ether (2×25 ml). The extracts were washed with water (25 ml) and saturated sodium chloride solution (25 ml) and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by flash chromatography, eluting with ethyl acetate/hexane (7:3 v/v), to give 4-(2-hydroxy-2-methylpropoxy)phenylboronic acid (355 mg), 1H NMR (d6 -DMSO): 1.2 (s, 6 H), 3.7 (s, 2 H), 4.5 (br s, 1 H), 6.85 (d, 2 H), 7.6-7.8 (m, 4 H).

reactant | 1-(4-bromophenoxy)-2-methylpropan-2-ol | 1.23 g | BrC1=CC=C(OCC(C)(O)C)C=C1 | C10H13BrO2
reactant | sodium hydride | 132 mg | [H-].[Na+]
reactant | Butyl lithium | 1.6M | C(CCC)[Li]
reactant | Trimethylborate | 1.14 g | COB(OC)OC | C3H9BO3
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | hexane | 6.9 ml | CCCCCC | C6H14
solvent | Water | 25 ml | O | H2O
product | 4-(2-hydroxy-2-methylpropoxy)phenylboronic acid | 355 mg | OC(COC1=CC=C(C=C1)B(O)O)(C)C | C10H15BO4
